US05672586
In a separate preparation, a solution of 4(R)-(1-methylethyl)-2-oxazolidinone (3.06 g, 23.7 mmol) in dry THF (30 mL) was cooled to -50°. Under argon, a 1.6M hexane solution of butyllithium (14.8 mL, 23.7 mmol) was added dropwise to the cooled solution of the oxazolidinone derivative. After 15 min at -78°, a solution of the first reactant in dry THF (10 mL) was added. The reaction mixture was stirred at -70° for 30 minutes and then allowed to warm to room temperature over a 45 min period. The mixture was quenched with excess 10% aqueous NH4Cl. Thereafter, the THF was removed under reduced pressure and the resulting concentrate was dissolved in EtOAc. The solution was washed with 5% aqueous NaHCO3 (2 X) and brine (2 X), dried (MgSO4) and concentrated to give an oil. The oil was purified by flash chromatography [SiO 2, hexane-EtOAc (43:7)] to yield (4R)-(1-methylethyl)-3-(3(R)-methyl-1-oxo-3-phenylpropyl)- 2-oxazolidinone (6.1 g, 93% yield).

reactant | 4(R)-(1-methylethyl)-2-oxazolidinone | 23.7 mmol, 3.06 g | CC(C)[C@H]1NC(OC1)=O | C6H11NO2
reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | butyllithium | 23.7 mmol, 14.8 mL | C(CCC)[Li]
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4R)-(1-methylethyl)-3-(3(R)-methyl-1-oxo-3-phenylpropyl)- 2-oxazolidinone | 6.1 g, 93% yield | CC(C)[C@H]1N(C(OC1)=O)C(C[C@H](C1=CC=CC=C1)C)=O | C16H21NO3
